US06251890B1
Step 1: Preparation of 2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline
Trifluoroacetamide (10 mmol) is reacted with 1,8-bis(bromomethyl)naphthalene (10 mmol) and sodium hydride (10 mmol) in DMF according to the procedure of Wright et al (Biochim. Biophys. Acta 1990, 1040, 95-101) to afford the title compound.

reactant | Trifluoroacetamide | 10 mmol | FC(C(=O)N)(F)F | C2H2F3NO
reactant | 1,8-bis(bromomethyl)naphthalene | 10 mmol | BrCC1=CC=CC2=CC=CC(=C12)CBr | C12H10Br2
reactant | sodium hydride | 10 mmol | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline | FC(C(=O)N1CC2=CC=CC=3C2=C(C1)C=CC3)(F)F | C14H10F3NO
